US06706703B2
To a solution of the crude 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzyl alcohol (4.01 g) obtained by the above-described procedure in anhydrous dimethylformamide (30 mL) were added imidazole (1.29 g, 18.98 mmol) and t-butylchlorodimethylsilane (1.79 g, 11.86 mmol). After stirring at 50° C. for 4 hours, water was added and the resulting mixture was extracted with ethyl acetate-hexane (1:2). The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to yield crude 4-(t-butyldimethylsiloxy)methyl-1-t-butyldiphenylsiloxy-3,5-dimethoxybenzene was obtained as a colorless amorphous powder (5.33 g).

reactant | 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzyl alcohol | 4.01 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=C(CO)C(=C1)OC)OC | C25H30O4Si
reactant | imidazole | 18.98 mmol, 1.29 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodimethylsilane | 11.86 mmol, 1.79 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-(t-butyldimethylsiloxy)methyl-1-t-butyldiphenylsiloxy-3,5-dimethoxybenzene | O([Si](C)(C)C(C)(C)C)CC1=C(C=C(C=C1OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC | C31H44O4Si2
